.title ROBERGE.ONEBOX.W09 semantic connectivity
.subckt MZ414D5031 PZ494E565F494E PZ4E4F4E494E565F494E PZ4F5554 PZ434F4D505F41 PZ434F4D505F42 PZ56503135 PZ564E3135 PZ41474E44
CIZ414D50312E4343 PZ434F4D505F41 PZ434F4D505F42 47p
CIZ414D50312E435F424941535F47 NZ414D50312E4E2E424941535F4E4547 PZ41474E44 0.1u
CIZ414D50312E435F424941535F4E NZ414D50312E4E2E424941535F4E4547 PZ564E3135 33u
CIZ414D50312E435F5134355F45 PZ56503135 NZ414D50312E4E2E51343545 3.3u
CIZ414D50312E435F5134425F425950 PZ56503135 NZ414D50312E4E2E5131435F513442 0.01u
CIZ414D50312E435F51365F425950 NZ414D50312E4E2E513642 PZ41474E44 1u
CIZ414D50312E435F564E5F42554C4B PZ41474E44 PZ564E3135 15u
CIZ414D50312E435F564E5F46415354 PZ41474E44 PZ564E3135 0.1u
CIZ414D50312E435F56505F42554C4B PZ56503135 PZ41474E44 15u
CIZ414D50312E435F56505F46415354 PZ56503135 PZ41474E44 0.1u
DIZ414D50312E445F42414C PZ56503135 NZ414D50312E4E2E42414C5F57 W09_D_BASE
DIZ414D50312E445F42494153 NZ414D50312E4E2E424941535F44494F44455F41 PZ564E3135 W09_D_BASE
DIZ414D50312E445F4452565F31 PZ434F4D505F42 NZ414D50312E4E2E4452565F44494F44455F4D4944 W09_D_BASE
DIZ414D50312E445F4452565F32 NZ414D50312E4E2E4452565F44494F44455F4D4944 NZ414D50312E4E2E4452565F4E5F513943 W09_D_BASE
QIZ414D50312E5131 NZ414D50312E4E2E5131435F513442 PZ494E565F494E NZ414D50312E4E2E5441494C W09_NPN_BASE
QIZ414D50312E513130 PZ56503135 PZ434F4D505F42 NZ414D50312E4E2E4F55545F505F53454E5345 W09_NPN_BASE
QIZ414D50312E513131 PZ564E3135 NZ414D50312E4E2E4452565F4E5F513943 NZ414D50312E4E2E4F55545F4E5F53454E5345 W09_PNP_BASE
QIZ414D50312E513132 PZ434F4D505F42 NZ414D50312E4E2E4F55545F505F53454E5345 PZ4F5554 W09_NPN_BASE
QIZ414D50312E513133 NZ414D50312E4E2E4452565F4E5F513943 NZ414D50312E4E2E4F55545F4E5F53454E5345 PZ4F5554 W09_PNP_BASE
QIZ414D50312E5132 PZ434F4D505F41 PZ4E4F4E494E565F494E NZ414D50312E4E2E5441494C W09_NPN_BASE
QIZ414D50312E5133 NZ414D50312E4E2E5441494C NZ414D50312E4E2E424941535F4E4547 NZ414D50312E4E2E5133455F534552494553 W09_NPN_BASE
QIZ414D50312E5134 PZ41474E44 NZ414D50312E4E2E5131435F513442 NZ414D50312E4E2E51343545 W09_PNP_BASE
QIZ414D50312E5135 NZ414D50312E4E2E5135435F513645 PZ434F4D505F41 NZ414D50312E4E2E51343545 W09_PNP_BASE
QIZ414D50312E5136 NZ414D50312E4E2E484947485F5A NZ414D50312E4E2E513642 NZ414D50312E4E2E5135435F513645 W09_PNP_BASE
QIZ414D50312E5137 NZ414D50312E4E2E484947485F5A NZ414D50312E4E2E424941535F4E4547 NZ414D50312E4E2E513745 W09_NPN_BASE
JIZ414D50312E5138 PZ56503135 NZ414D50312E4E2E484947485F5A PZ434F4D505F42 W09_NJF_BASE
QIZ414D50312E5139 NZ414D50312E4E2E4452565F4E5F513943 NZ414D50312E4E2E424941535F4E4547 NZ414D50312E4E2E513945 W09_NPN_BASE
RIZ414D50312E525F42414C5F4C NZ414D50312E4E2E42414C5F4C NZ414D50312E4E2E42414C5F57 25k
RIZ414D50312E525F42414C5F52 NZ414D50312E4E2E42414C5F57 NZ414D50312E4E2E42414C5F52 25k
RIZ414D50312E525F424941535F5443 NZ414D50312E4E2E424941535F4E4547 NZ414D50312E4E2E424941535F44494F44455F41 1.5k
RIZ414D50312E525F434F4C5F4C NZ414D50312E4E2E42414C5F4C NZ414D50312E4E2E5131435F513442 300k
RIZ414D50312E525F434F4C5F52 NZ414D50312E4E2E42414C5F52 PZ434F4D505F41 300k
RIZ414D50312E525F4F55545F4E PZ4F5554 NZ414D50312E4E2E4F55545F4E5F53454E5345 22
RIZ414D50312E525F4F55545F50 NZ414D50312E4E2E4F55545F505F53454E5345 PZ4F5554 22
RIZ414D50312E525F51335F3138304B NZ414D50312E4E2E5133455F4D4944 PZ564E3135 180k
RIZ414D50312E525F51335F354B36 NZ414D50312E4E2E5133455F534552494553 NZ414D50312E4E2E5133455F4D4944 5.6k
RIZ414D50312E525F5134355F45 PZ56503135 NZ414D50312E4E2E51343545 33k
RIZ414D50312E525F51365F4247 NZ414D50312E4E2E513642 PZ41474E44 10k
RIZ414D50312E525F51365F4250 PZ56503135 NZ414D50312E4E2E513642 4.7k
RIZ414D50312E525F51375F45 NZ414D50312E4E2E513745 PZ564E3135 68k
RIZ414D50312E525F51395F45 NZ414D50312E4E2E513945 PZ564E3135 1.5k
.ends MZ414D5031
XIZ414D5031 NZ414D50312E494E565F494E NZ414D50312E4E4F4E494E565F494E NZ414D50312E4F5554 NZ414D50312E434F4D505F41 NZ414D50312E434F4D505F42 NZ503135 NZ4E3135 0 MZ414D5031
.end
